US09102621B2
4-{[(5-chloropyridin-3-yl)oxy]methyl}benzoic acid
To a suspension of 5-chloro-3-hydroxypyridine (0.6 g, 4.6 mmol) and potassium carbonate (1.27 g, 9.2 mmol) in acetone (10 mL) was added 4-carboxybenzylbromide (1.0 g, 4.6 mmol). The reaction was heated at reflux for 18 hours. After cooling, the reaction mixture was partitioned between EtOAc (80 mL) and saturated aqueous ammonium chloride solution (140 mL). The organic layer was dried over magnesium sulfate and evaporated in vacuo to afford the title compound (0.65 g, 53%), which was used in the next step without further purification.

reactant | 5-chloro-3-hydroxypyridine | 4.6 mmol, 0.6 g | ClC=1C=C(C=NC1)O | C5H4ClNO
reactant | potassium carbonate | 9.2 mmol, 1.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-carboxybenzylbromide | 4.6 mmol, 1.0 g | C(=O)(O)C1=CC=C(CBr)C=C1 | C8H7BrO2
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 4-{[(5-chloropyridin-3-yl)oxy]methyl}benzoic acid | 0.65 g, 53% | ClC=1C=C(C=NC1)OCC1=CC=C(C(=O)O)C=C1 | C13H10ClNO3
